US09193725B2
A 500 mL two necked round bottom flask was charged with 2-(4,6-dichloropyrimidin-5-yl)acetaldehyde (1.2 g), dry diethyl ether (80 mL) and dry THF (80 mL). The reaction mixture was cooled to 0° C. and diazomethane solution in diethyl ether (30 mL) was slowly added under nitrogen atmosphere at 0° C. The reaction mixture was stirred at room temperature for 24 hours under nitrogen atmosphere before being quenched by acetic acid (20 mL), followed by water (100 mL). Aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic layer was washed with brine (50 mL) and dried over anhydrous Na2SO4. Evaporation of solvents under reduced pressure gave crude 1-(4,6-dichloropyrimidin-5-yl)propan-2-one (0.94 g) which was used as was. 1H NMR (DMSO-d6): δ 2.32 (s, 3H), 4.19 (s, 2H), 8.85 (s, 1H).

reactant | 2-(4,6-dichloropyrimidin-5-yl)acetaldehyde | 1.2 g | ClC1=NC=NC(=C1CC=O)Cl | C6H4Cl2N2O
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | 1-(4,6-dichloropyrimidin-5-yl)propan-2-one | 0.94 g | ClC1=NC=NC(=C1CC(C)=O)Cl | C7H6Cl2N2O
